US09334245B2
5-[(1R,3S)-3-Carboxy-1-(3′-fluorobiphenyl-4-ylmethyl)-4-hydroxy-3-methyl-butylcarbamoyl]-1H-pyrazole-3-carboxylic Acid
3,5-Pyrazoledicarboxylic acid (37.7 mg, 241 μmol, 1.0 eq.), EDCI (42.7 μL, 241 μmol, 1.0 eq.), 4-methylmorpholine (53.1 μL, 2.0 eq.) and 1 HOBt (32.6 mg, 241 μmol, 1.0 eq.) were combined in DMF (0.2 mL) and stirred for 5 minutes at room temperature. A predissolved solution of (2S,4R)-4-amino-5-(3′-fluorobiphenyl-4-yl)-2-hydroxymethyl-2-methyl-pentanoic acid (80 mg, 240 μmol, 1.0 eq.) and 4-methylmorpholine (53.1 μL) in DMF (0.3 mL) was added and the resulting mixture was stirred for 15 minutes. The reaction was quenched by adding AcOH and the product was purified by preparative HPLC and lyophilized to yield the title compound (25 mg). MS m/z [M+H]+ calc'd for C24H24FN3O6, 470.17. found 470.4.

reactant | 3,5-Pyrazoledicarboxylic acid | 241 μmol, 37.7 mg, 1.0 eq. | N1N=C(C=C1C(=O)O)C(=O)O | C5H4N2O4
reactant | EDCI | 241 μmol, 42.7 μL, 1.0 eq. | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-methylmorpholine | 53.1 μL, 2.0 eq. | CN1CCOCC1 | C5H11NO
reactant | HOBt | 241 μmol, 32.6 mg, 1.0 eq. | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (2S,4R)-4-amino-5-(3′-fluorobiphenyl-4-yl)-2-hydroxymethyl-2-methyl-pentanoic acid | 240 μmol, 80 mg, 1.0 eq. | N[C@@H](C[C@@](C(=O)O)(C)CO)CC1=CC=C(C=C1)C1=CC(=CC=C1)F | C19H22FNO3
reactant | 4-methylmorpholine | 53.1 μL | CN1CCOCC1 | C5H11NO
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
product | 5-[(1R,3S)-3-Carboxy-1-(3′-fluorobiphenyl-4-ylmethyl)-4-hydroxy-3-methyl-butylcarbamoyl]-1H-pyrazole-3-carboxylic Acid | 25 mg | C(=O)(O)[C@@](C[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)F)NC(=O)C1=CC(=NN1)C(=O)O)(CO)C | C24H24FN3O6
